US06008407
4-chloro-4,5,5-trifluorocyclohexene was prepared in the same manner as in Example 12 except that chlorotrifluoroethylene (CTFE) and 1,3-butadiene were continuously injected into the flow reactor at the rates of 65.2 g/hr and 30.3 g/hr, respectively. Then, 8.6 g of unreacted chlorotrifluoroethylene (CTFE) was recovered. The resultant was purified by steam distillation, and then the water layer was removed to give 64.9 g of the mixture (GC%=61%).

reactant | chlorotrifluoroethylene | ClC(=C(F)F)F | C2ClF3
reactant | 1,3-butadiene | C=CC=C | C4H6
product | 4-chloro-4,5,5-trifluorocyclohexene | ClC1(CC=CCC1(F)F)F | C6H6ClF3
